US06552188B2
Synthesis of ethyl 2-(4-methoxyphenyl)isonicotinate
4-Methoxyphenylboronic acid (179 mg) and ethyl 2-chloroisonicotinate (200 mg) were treated in the same manner as in Preparation Example 1 to obtain the title compound.

reactant | 4-Methoxyphenylboronic acid | 179 mg | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | ethyl 2-chloroisonicotinate | 200 mg | ClC=1C=C(C(=O)OCC)C=CN1 | C8H8ClNO2
product | ethyl 2-(4-methoxyphenyl)isonicotinate | COC1=CC=C(C=C1)C=1C=C(C(=O)OCC)C=CN1 | C15H15NO3
